US08034811B2
O-(4-Fluoro-2-methoxy-benzyl)-hydroxylamine hydrochloride
4-Fluoro-2-methoxybenzaldehyde (Fluorochem, 4.5 g) was dissolved in methanol (40 ml) and cooled to 0° C. Sodium borohydride (1.1 g) was added and the mixture was stirred for 1 hour. Water (200 ml) was added and the mixture was concentrated under reduced pressure (ca. 100 ml). The resulting precipitate was isolated by filtration, washed with water and dried under vacuum and gave 4-fluoro-2-methoxy-phenyl)-methanol (3.76 g). This alcohol (3.76 g) was dissolved in THF (100 ml) and N-Hydroxyphthalimide (3.93 g) and triphenylphosphine (6.32 g) was added followed by drop-wise addition of diisopropyl azodicarboxylate (4.87 g). The resulting turbid red reaction mixture was stirred at room temperature for 30 min. The mixture was filtrated through a pad of silica gel and the filtrate was evaporated under reduced pressure. Ethanol (70 ml) was added to the residue which dissolved on heating. On cooling a crystalline material formed that was isolated by filtration and dried under vacuum. This phthalimide intermediate (6.15 g) was suspended in ethanol (50 ml) and hydrazine monohydrate (1.0 ml) dissolved in ethanol (10 ml) was added. The reaction mixture was heated to reflux and stirred for ca. 3 hours. The mixture was cooled to room temperature and the solid material was removed by filtration. The filtrate was evaporated under reduced pressure and the residue was treated with EtOAc and filtrated. 4 M HCl in dioxane (1.0 eq.) was added to the filtrate and the resulting precipitated material was isolated by filtration and gave the title compound (3.26 g) as a white solid material. 13C-NMR (DMSO-d6) δ 163.7, 159.2, 132.6, 117.8, 106.6, 99.7, 70.2, 56.0.

reactant | 4-Fluoro-2-methoxybenzaldehyde | 4.5 g | FC1=CC(=C(C=O)C=C1)OC | C8H7FO2
reactant | Sodium borohydride | 1.1 g | [BH4-].[Na+]
reactant | N-Hydroxyphthalimide | 3.93 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | triphenylphosphine | 6.32 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 4.87 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 1.0 eq. | O1CCOCC1 | C4H8O2
solvent | methanol | 40 ml | CO | CH4O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | Water | 200 ml | O | H2O
product | O-(4-Fluoro-2-methoxy-benzyl)-hydroxylamine hydrochloride | 3.26 g | Cl.FC1=CC(=C(CON)C=C1)OC | InChI=1S/C8H10FNO2.ClH/c1-11-8-4-7(9)3-2-6(8)5-12-10;/h2-4H,5,10H2,1H3;1H
